US04612314
To 50 mg of 9-(1,3-dihydroxy-2-propoxymethyl)guanine in 5 ml of N,N-dimethylformamide were added 290 mg dicyclohexycarbodiimide and 300 mg of n-hexadecanoic acid and the solution was stirred at 50° C. for 50 hours. The compound was then precipitated in ice water. The water was extracted with methylene chloride (3x). The combined methylene chloride extracts were concentrated, then purified on preparative silica gel plates developed in 1:9 methanol:methylene chloride to yield 140 mg 9-(1,3-di-n-hexadecanoyloxy-2-propoxymethyl)guanine, m.p. 150°-154° C.

reactant | 9-(1,3-dihydroxy-2-propoxymethyl)guanine | 50 mg | OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O4
reactant | n-hexadecanoic acid | 300 mg | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 9-(1,3-di-n-hexadecanoyloxy-2-propoxymethyl)guanine | 140 mg | C(CCCCCCCCCCCCCCC)(=O)OCC(COC(CCCCCCCCCCCCCCC)=O)OCN1C=2N=C(NC(C2N=C1)=O)N | C41H73N5O6
